US05322847
3-(5-Fluorobenzothiazol-2-yl-trans-ethenyl)benzaldehyde
To a solution of 1.5 g of 3-(5-fluorobenzothiazol-2-yl-trans-ethenyl)benzyl alcohol (Preparation H2) in 40 ml of methylene chloride and 25 ml of dimethylsulfoxide at -60° C. was added a solution of 0.64 ml of oxalyl chloride in 20 ml of dry methylene chloride containing 0.74 ml of dimethylsulfoxide. After stirring at -60° C. for 35 minutes the reaction mixture was allowed to warm to -35° C. for 25 minutes. The mixture was again cooled to -60° C. and 3.65 ml of triethylamine was added over a period of 5 minutes. The mixture was allowed to warm to room temperature and was treated with 200 ml of water. The organic phase was washed with a brine solution, dried over sodium sulfate and concentrated in vacuo to give after trituration with ethyl acetate--hexane 1.2 g. A sample was recrystallized from ethyl acetate--hexane, m.p. 151°-152° C.

reactant | 3-(5-fluorobenzothiazol-2-yl-trans-ethenyl)benzyl alcohol | 1.5 g | FC=1C=CC2=C(N=C(S2)/C=C/C=2C=C(CO)C=CC2)C1 | C16H12FNOS
reactant | oxalyl chloride | 0.64 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 3.65 ml | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | 1.2 g | CCCCCC | C6H14
product | 3-(5-Fluorobenzothiazol-2-yl-trans-ethenyl)benzaldehyde | FC=1C=CC2=C(N=C(S2)/C=C/C=2C=C(C=O)C=CC2)C1 | C16H10FNOS
